Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cat bite

 
Major Surgical or Invasive Procedure:
Incision and drainage of right ___ digit.

 
History of Present Illness:
___ year old RHD transgender male in transition to female sent in 
from PCP for evaluation of cat bite to right index finger. 
Patient was originally seen at an OSH ED on ___ after her 
cat bit her right index finger. Patient was given a dose of 
Unasyn and discharged on Augmentin. Patient saw her PCP today 
after erythema and swelling increased. Plastic surgery is 
consulted to evaluate for possible I&D of right index finger.

 
Past Medical History:
Denies
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Gen: Awake and oriented in NAD
RUE: mild to moderate swelling of right index finger with 
circumferential erythema from distal palmar crease to tip of 
finger; finger in flexed position; tender to palpation starting 
volarly at level of A1 pulley through mid P2; normal range of 
motion with ___ pain with active flexion; mild hypothesias on
radial and medial aspects of index finger likely secondary to 
swelling; cap refill < 2 sec.

 
Pertinent Results:
___ 02:05PM   TESTOSTER-353*
___ 02:05PM   CALCIUM-9.6
___ 02:05PM   ALT(SGPT)-25 AST(SGOT)-14
___ 02:05PM   estGFR-Using this
___ 02:05PM   UREA N-14 CREAT-0.9 SODIUM-140 POTASSIUM-4.0 
CHLORIDE-102 TOTAL CO2-29 ANION GAP-13
___ 02:05PM   GLUCOSE-77
___ 09:15PM   PLT COUNT-204
___ 09:15PM   NEUTS-77.4* LYMPHS-15.5* MONOS-5.7 EOS-1.1 
BASOS-0.2
___ 09:15PM   WBC-11.8* RBC-4.65 HGB-14.7 HCT-40.9 MCV-88 
MCH-31.6 MCHC-35.9* RDW-11.8
___ 09:15PM   estGFR-Using this
___ 09:15PM   GLUCOSE-94 UREA N-16 CREAT-0.9 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-27 ANION GAP-15
___ 08:45AM   PLT COUNT-166
___ 08:45AM   NEUTS-84.4* LYMPHS-10.0* MONOS-4.6 EOS-0.9 
BASOS-0.2
___ 08:45AM   WBC-11.0 RBC-4.23 HGB-13.5 HCT-37.8 MCV-89 
MCH-32.0 MCHC-35.8* RDW-11.7
___ 06:19PM URINE  MUCOUS-RARE
___ 06:19PM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 06:19PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-2* PH-6.5 LEUK-TR
___ 06:19PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:19PM URINE  GR HOLD-HOLD
___ 06:19PM URINE  HOURS-RANDOM
___ 05:20AM BLOOD WBC-8.1 RBC-4.41 Hgb-13.8 Hct-39.7 MCV-90 
MCH-31.4 MCHC-34.9 RDW-11.7 Plt ___
___ 05:20AM BLOOD Neuts-68.1 ___ Monos-6.7 Eos-2.3 
Baso-0.3
.
MICROBIOLOGY:
___ 8:20 am SWAB      Source: right index finger cat bite 
dorsal. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 
.
RADIOLOGY:
Radiology Report HAND (AP & LAT) SOFT TISSUE RIGHT Study Date of 
___ 11:36 ___ 
FINDINGS: 
Three views of the right hand demonstrate no evidence of acute 
fracture or 
dislocation. Soft tissues are unremarkable. No radiopaque 
foreign body is 
identified. Joint spaces appear well preserved. Bone 
mineralization appears normal. 
IMPRESSION:  
No evidence of displaced fracture or dislocation of the right 
hand. There is no radiopaque foreign body. 

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ after she presented delayed for a cat bite to her hand, 
which necessitated an incision and drainage of the right second 
digit about the cat bites to relieve the infection.  ~1cc of pus 
was expressed.  The patient tolerated the procedure well, and in 
addition to Unasyn, the pt's cellulitis responded well.  There 
was initial concern for flexor tenosynovitis, but ultimately 
that diagnosis was not made, and the pt was treated as a 
cellulitis only.  The patient received several days of IV 
Unsayn, and was successfully discharged on ___.  The pt 
improved each day, with increasing range of motion, decreased 
swelling, and decreased erythema.  However there is still some 
pain with active and passive motion.

.
Neuro: Patient was A/O x3 the entire time while here.  Pain was 
treated with tylenol with adequate relief noted.
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
.
GI/GU: Her diet was maintained, which was tolerated well. She 
was also started on a bowel regimen to encourage bowel movement. 

.
ID: The pt was initially observed in the ED on Unasyn, then 
continued on unasyn in house.  This worked well, and the pt was 
discharged home with Augmentin 875mg BID x10days.

Prophylaxis: Pt was ambulatory and taking PO, so no prophylaxis 
was done. 
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs, tolerating a regular diet, ambulating, 
voiding without assistance, and pain was well controlled.

 
Medications on Admission:
Estradiol, Spironolactone, Augmentin, Percocet

 
Discharge Medications:
1. amoxicillin-pot clavulanate 875-125 mg Tablet Sig: One (1) 
Tablet PO twice a day for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
2. Acetaminophen Extra Strength 500 mg Tablet Sig: ___ Tablets 
PO every six (6) hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis of the right hand
 
Discharge Condition:
Mental Status: normal
Ambulatory status: normal, ambulatory.
Function: painful mobility of right hand at times, but can 
manage ADLs.

Mental Status: normal
Ambulatory status: normal, ambulatory.
Function: painful mobility of right hand at times, but can 
manage ADLs.

 
Discharge Instructions:
You were seen here and examined and then admited for your hand 
infection.  We opened it up a little bit and drained some pus 
and took a sample of it.  You stayed here a while to receive 
intravenous antibiotics, which helped, and while here we tracked 
your improvement.  You continued to do well while in the 
hospital, so we agreed that it was OK for you to go home, 
provided that you can take all of your medications as 
prescribed.
.
Followup Instructions:
___